US05374636
(1R,2S,3S)-2-Hydroxymethyl-3-(4-fluorophenyl)tropane.
To a suspension of lithium aluminum hydride (0.8 g, 21 mmol) in diethyl ether (30 ml), at room temperature, was slowly added a solution of (1R,2S,3S)-2-carbomethoxy-3-(4-fluorophenyl)tropane (5 g, 18 mmol) in 100 ml diethyl ether. The reaction completes after stirring for 10 minutes and was quenched by addition of 0.8 ml water, 0.8 ml sodium hydroxide (15%) and 2 ml water. The aluminum salts were removed by filtration and the solvent was removed in vacuo leaving an oil. The title compound precipitates upon trituration with pentane as white crystals, m.p. 79°-180° C.

reactant | lithium aluminum hydride | 21 mmol, 0.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (1R,2S,3S)-2-carbomethoxy-3-(4-fluorophenyl)tropane | 18 mmol, 5 g | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)F)N2C | C16H20FNO2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (1R,2S,3S)-2-Hydroxymethyl-3-(4-fluorophenyl)tropane | OC[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)F)N2C | C15H20FNO
